US09303040B2
TBAF (2.8 g, 8.9 mmol) was added to a stirred solution of tert-butyl 1-(2-(tert-butyldimethylsilyloxy)-1-(4-chlorophenyl)ethyl)cyclopropylcarbamate (1.9 g, 4.5 mmol) in THF (80 mL). The mixture was stirred at room temperature for 2 hours. Saturated NH4Cl solution was added to the reaction. The mixture was extracted with ether. The combined organic layer was washed with brine, dried and concentrated. The residue was purified by column (hexane:EtOAc, 20:1 to 4:1) to give tert-butyl 1-(1-(4-chlorophenyl)-2-hydroxyethyl)cyclopropylcarbamate (1.1 g, 79%) as a white solid. LCMS: 311.8 [M+H+] (APCI+); Rf: 3.47 min.

reactant | TBAF | 8.9 mmol, 2.8 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | tert-butyl 1-(2-(tert-butyldimethylsilyloxy)-1-(4-chlorophenyl)ethyl)cyclopropylcarbamate | 4.5 mmol, 1.9 g | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)Cl)C1(CC1)NC(OC(C)(C)C)=O | C22H36ClNO3Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(1-(4-chlorophenyl)-2-hydroxyethyl)cyclopropylcarbamate | 1.1 g, 79% | ClC1=CC=C(C=C1)C(CO)C1(CC1)NC(OC(C)(C)C)=O | C16H22ClNO3
